Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left index finger table saw injury
 
Major Surgical or Invasive Procedure:
Left index finger revascularization, including radial and ulnar 
digital artery, radial and ulnar digital nerve repairs.

 
History of Present Illness:
___ is a ___ year old RHD male w h/o diabetes, who
presents to the ED after cutting his left second and first digit
with a table saw around 1PM. He was seen at ___
and transferred for management.
 
Past Medical History:
Diabetes                                                
 
Social History:
___
Family History:
None
 
Physical Exam:
PREOP:
Left Hand: Laceration across P1 base of left ___ digit. Thumb
volar avulsion injury of skin. 
Vascular: Palpable radial and ulnar pulses. Doppler signal
present to palmar arch. Signal to distal digits present proximal
to cut, absent distal to cut. Capillary refill is 2
seconds.Motor: Full range of motion to FDP,FDS of digits.
Strength ___.
Sensory: some sensation distal to cut with dense numbness at the
digit tip of ___ digit. Intact to light touch.

POSTOP:
- splint in place
- L index finger pink and well perfused. Cap refill <3 sec.
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the hand surgery team. The patient was found to 
have left index finger table saw injury and was admitted to the 
hand surgery service. The patient was taken to the operating 
room on ___ for left index finger revascularization, which 
the patient tolerated well. For full details of the procedure 
please see the separately dictated operative report. The patient 
was taken from the OR to the PACU in stable condition and after 
satisfactory recovery from anesthesia was transferred to the 
floor. The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to home was 
appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the left upper extremity, and will be 
discharged on aspirin 121 mg daily for anticoagulation. The 
patient will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Aspirin 121.5 mg PO DAILY Duration: 30 Days 
RX *aspirin 81 mg 1.5 tablet(s) by mouth daily Disp #*45 Tablet 
Refills:*0 
3.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*28 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h prn Disp #*20 Tablet 
Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left second digit table saw injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Aspirin 121 mg daily for 30 days
Keflex antibiotics for 1 week
Follow-up with Dr. ___ in 1 week
Nonweightbearing left upper extremity.

 
Followup Instructions:
___